US07034039B2
To a solution of methyl 6-benzyloxy-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (5.97 g, 13 mmol) in tetrahydrofuran (50 mL) and methanol (50 mL) was added an aqueous solution (10 mL) of lithium hydroxide monohydrate (1.64 g, 39 mmol). The obtained mixture was refluxed under heating for 12 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (50 mL), and oxalyl chloride (1.0 mL, 12 mmol) and N,N-dimethylformamide (3 drops) were added thereto. The mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in tetrahydrofuran (30 mL). The obtained solution was added dropwise to a suspension of sodium tetrahydroborate (1.32 g, 35 mmol) in 1,2-dimethoxyethane (30 mL) at 0° C. The obtained mixture was stirred at 0° C. for 1 h. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 6-benzyloxy-4-(3-fluorophenyl)-3-hydroxymethyl-2-isobutyl-1(2H)-isoquinolinone (1.39 g, 32.2%) as crystals.

reactant | methyl 6-benzyloxy-4-(3-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 13 mmol, 5.97 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)C1=CC(=CC=C1)F | C28H26FNO4
reactant | lithium hydroxide monohydrate | 39 mmol, 10 mL, 1.64 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | oxalyl chloride | 12 mmol, 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium tetrahydroborate | 35 mmol, 1.32 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 6-benzyloxy-4-(3-fluorophenyl)-3-hydroxymethyl-2-isobutyl-1(2H)-isoquinolinone | 1.39 g, 32.2% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CO)C1=CC(=CC=C1)F | C27H26FNO3
